US07235572B2
b] 2-(2,3-Difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester
A solution of 2,3-difluoro-4-trifluoromethyl-thiobenzamide (1.15 g, 4.8 mmol) and ethyl 2-chloro-acetoacetate (0.67 ml, 4.8 mmol) in ethanol (70 ml) was heated at reflux temperature for 14 hours. The solvent was removed under reduced pressure and the residue partitioned between ice water and ethyl acetate. The layers were separated and the aqueous phase extracted two more times with ethyl acetate. The combined extracts were washed two times with ice water/brine 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to yield 700 mg (2 mmol, 42%) of the title compound as yellow crystals.

reactant | 2,3-difluoro-4-trifluoromethyl-thiobenzamide | 4.8 mmol, 1.15 g | FC1=C(C(=S)N)C=CC(=C1F)C(F)(F)F | C8H4F5NS
reactant | ethyl 2-chloro-acetoacetate | 4.8 mmol, 0.67 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(2,3-Difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 2 mmol, 700 mg, 42% | C(C)OC(=O)C1=C(N=C(S1)C1=C(C(=C(C=C1)C(F)(F)F)F)F)C | C14H10F5NO2S
